datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]#[C:11][H:12]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])[H:4].[H:5][C:10]#[C:11][H:12],0.0
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([C:7](=[S:8])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[S:3])[H:12])[H:4].[C:5]([C:6]([C:7](=[S:8])[H:14])[H:13])([H:9])([H:10])[H:11],62.76
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]=[O:4])[H:8])([H:5])([H:6])[H:7].[H:12][O:13][O:14][H:15],49.87328
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22]>>[C:0]([C:1]1([H:10])[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:11][O:21][O:22],199.11656
[H:13].[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][H:13].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],24.9434
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[S:17][H:24])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[S:17][H:24],10.8784
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26][O:27][H:28]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[H:11][O:26][O:27][H:28],58.19944
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])[H:6],27.196
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[S:5][C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])[H:9])([H:7])[H:8].[S:5]([C:6]([H:16])([H:17])[H:18])[H:19],6.6944
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16],14.2256
[C:0]([C:1]([O:2][H:12])([C:3]([O:4][O:5])([H:13])[H:14])[C:6]([O:7][O:8][H:17])([H:15])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2])([C:3]([O:4][O:5][H:12])([H:13])[H:14])[C:6]([O:7][O:8][H:17])([H:15])[H:16])([H:9])([H:10])[H:11],88.15688
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([C:11]([H:22])([H:23])[H:24])=[C:12]([c:13]1[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]1[H:30])[H:25])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:10]([C:9]([H:19])([H:20])[H:21])[C:11]([H:22])([H:23])[H:24])([c:13]1[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]1[H:30])[H:25])[H:4],46.4424
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:26]([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[H:8][C:26]([H:27])([H:28])[H:29],29.928152
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]([C:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]1([C:7]([H:16])([H:17])[H:18])[H:15])[H:9])[H:8],57.9484
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[N:10]([H:11])[H:12]>>[C:0]([C:1]([N:2][H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][N:10]([H:11])[H:12],24.798568
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[O:19][H:20]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][O:19][H:20],-4.184
[C:0](#[C:1][N:2]([H:4])[H:5])[H:3].[N:6]([H:7])[H:8]>>[C:0](#[C:1][N:2][H:5])[H:3].[H:4][N:6]([H:7])[H:8],29.886312
[C:0]([O:1][C:2]([O:3][O:4][H:9])([H:7])[H:8])([H:5])[H:6].[O:10][O:11]>>[C:0]([O:1][C:2]([O:3][O:4][H:9])([H:7])[H:8])([H:5])([H:6])[O:10][O:11],0.0
